### PR TITLE
Preorder

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Defines preordered types and generalizes lemmas on `porderType` to `preorderType`.

#### Dependencies (Edit by Cyril)

- https://github.com/coq/coq/pull/19611

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] ~I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).~ (let's not backport that)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

#### Overlay (to be merged before the current PR)

* https://github.com/math-comp/analysis/pull/1577

### CODE REVIEW

**Comment by proux01** [comment]
This looks great! Why not take the opportunity to put this in a separate preorder.v file? to avoid inflating once more order.v that is already way to fat. (order.v itself should probably be cut in three, I'm refraining from doing it now, to avoid conflicts with https://github.com/math-comp/math-comp/pull/1166 cc @pi8027 )

File: mathcomp/ssreflect/order.v [hunk 1]
```diff
@@ -1065,98 +1075,94 @@ Reserved Notation "'{' 'tblmorphism' U '->' V '}'"
...
-Notation "[ 'porderType' 'of' T 'for' cT 'with' disp ]" :=
-  (POrder.clone disp T%type cT)
-  (at level 0, format "[ 'porderType'  'of'  T  'for'  cT  'with'  disp ]") :
+#[deprecated(since="mathcomp 2.0.0", note="Use Preorder.clone instead.")]
+Notation "[ 'preorderType' 'of' T 'for' cT ]" := (Preorder.clone _ T%type cT)
+  (at level 0, format "[ 'preorderType'  'of'  T  'for'  cT ]") : form_scope.
+#[deprecated(since="mathcomp 2.0.0", note="Use Preorder.clone instead.")]
+Notation "[ 'preorderType' 'of' T 'for' cT 'with' disp ]" :=
+  (Preorder.clone disp T%type cT)
+  (at level 0, format "[ 'preorderType'  'of'  T  'for'  cT  'with'  disp ]") :
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1150]: These notations are deprecated. In my opinion, we do not have to port them to new structures. (I actually wish to remove them now because order.v is too large and editing it is becoming a bit painful for me.)

**Comment by proux01** [comment]
@pi8027 could you precise what are your plans wrt #1166 ? (currently it's still a draft PR)

**Comment by pi8027** [comment]
@proux01 We need #1166 for our ITP submission. There are still a few things to fix, but I hope it will be ready for review by the end of February.

**Comment by proux01** [comment]
Can't you just reference the branch in the paper? Putting dependencies between two PRs and a paper submission seems like a bit too many entanglements. If you reference a branch in the paper we can merge each PR without stress and hopefully you can update the final version of your paper telling the feature is in MC 2.3.0.

**Comment by pi8027** [comment]
I cannot promise to rebase #1166 on this PR even if you don't split order.v now, because I really don't know how difficult it will be.

**Comment by proux01** [comment]
In any case, we need to figure out a merge strategy between this #1169 and #1166 . And considering the overlap, this will imply some serious rebase in any case. IIUC, we hope #1166 to be in a mergeable state by the end of February. @Tragicus what are your expectations in term of schedule regarding this #1169 ? (it seems to at least require some overlays according to CI results) If any of the two is ready way before the other, let's merge it first.

**Comment by Tragicus** [comment]
Sorry for the delay, and thank you for your comments. Please @pi8027 ignore this PR for now. I needed preorders for a personal project and I figured I might as well do things here. I can wait for your submission to go through (including the dualization).
Nothing depends on this PR for me, and it might take some time for me to implement the above mentioned modifications, so we should probably consider that #1166 will be merged first.

**Comment by pi8027** [comment]
@Tragicus Feel free to ping me if you need help redoing this PR.

**Comment by Tragicus** [comment]
The splitting is done, the only thing left to do is make it backwards compatible. Most notably, "a few" names were moved to `preorder.Preorder`. I would like to have them in `Order` too (since this is where the users look for them), but I do not want to copy everything by hand. Is there a way to do that?
On a side note, `order.v` takes 622s to compile.

**Comment by proux01** [comment]
> The splitting is done, the only thing left to do is make it backwards compatible. Most notably, "a few" names were moved to `preorder.Preorder`. I would like to have them in `Order` too (since this is where the users look for them), but I do not want to copy everything by hand. Is there a way to do that?

Some clever Export can help but you may still have to put quite many notation abbreviations.

> On a side note, `order.v` takes 622s to compile.

Sound a lot, on which Coq / HB ?

**Comment by Tragicus** [comment]
I was afraid you would say that, I guess there is no way around it then. I am on Coq and HB master (4b52a0d917 and 5f37676 respectively). It is slow mostly because of `HB.saturate` (which I believe has already been reported).

**Comment by proux01** [comment]
Arg, then we should definitely try to improve HB.saturate. Meanwhile, maybe you can work around it by replacing HB.saturate with some manual HB.instance as done by @pi8027 in its previous semilattive PR, but not sure it's worth the effort.

**Comment by Tragicus** [comment]
Right, if I manage to get to the point where the CI is happy, I will do that.

**Comment by pi8027** [comment]
> Meanwhile, maybe you can work around it by replacing HB.saturate with some manual HB.instance as done by @pi8027 in its previous semilattive PR, but not sure it's worth the effort.

IIRC, what I actually did was the other way around: I replaced the `HB.instance` declarations for dual instances with `HB.saturate` because a bug of `HB.instance` prevented me from declaring these instances. You can revert this change if the bug has been fixed.

File: mathcomp/ssreflect/order.v [hunk 2]
```diff
@@ -1377,198 +1017,50 @@ HB.structure Definition TBPOrder d := { T of hasTop d T & BPOrder d T }.
...
+Notation "[ 'porderType' 'of' T 'for' cT 'with' disp ]" :=
+  (POrder.clone disp T%type cT)
+  (at level 0, format "[ 'porderType'  'of'  T  'for'  cT  'with'  disp ]") :
+  form_scope.
+#[deprecated(since="mathcomp 2.0.0", note="Use POrder.clone instead.")]
+Notation "[ 'porderType' 'of' T ]" := (POrder.clone _ T%type _)
+  (at level 0, format "[ 'porderType'  'of'  T ]") : form_scope.
+#[deprecated(since="mathcomp 2.0.0", note="Use POrder.clone instead.")]
+Notation "[ 'porderType' 'of' T 'with' disp ]" := (POrder.clone disp T%type _)
+  (at level 0, format "[ 'porderType'  'of'  T  'with' disp ]") : form_scope.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1033]: These notations have been removed.

File: mathcomp/ssreflect/order.v [hunk 3]
```diff
@@ -1377,198 +1017,50 @@ HB.structure Definition TBPOrder d := { T of hasTop d T & BPOrder d T }.
...
+(* HB.mixin Record POrder_isMeetSemiLattice *)
+(*     d (T : indexed Type) of POrder d T := { *)
+(*   meet : T -> T -> T; *)
+(*   meetC : commutative meet; *)
+(*   meetA : associative meet; *)
+(*   le_def : forall x y, (x <= y) = (meet x y == x); *)
+(* }. *)
+(* #[short(type="meetSemiLatticeType")] *)
+(* HB.structure Definition MeetSemiLattice d := *)
+(*   { T of POrder_isMeetSemiLattice d T & POrder d T }. *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1060]: We don't need to keep these comments.

File: mathcomp/ssreflect/order.v [hunk 4]
```diff
@@ -5301,48 +4137,28 @@ HB.end.
...
+Proof. by move=> ? ? /le_anti; apply: pcan_inj. Qed.
 
-End PCan.
-
-Definition Can f' (f_can : cancel f f') := Pcan (can_pcan f_can).
+HB.instance Definition _ :=
+  Preorder_isPOrder.Build disp (pcan_type f_can) anti.
 
 End CancelPartial.
 End CancelPartial.
```
Comment (Tragicus) [inline mathcomp/ssreflect/order.v:4151]: @CohenCyril I modified the module `CancelPartial` in `order.v` so as to define `Pcan` again:
`Definition Pcan := isPOrder.Build disp T
  lt_def PreCancelPartial.refl anti PreCancelPartial.trans.`
This fails because one of the `id_phant` triggers the unification of `T` vs. `Choice.Pack (Choice.sort T) _`. I see somewhere the unification of `Choice.sort T` vs. `Choice.sort _`, which may somehow introduce the `Choice.Pack`, but in any case I am confused that it worked before and not now.

Comment (Tragicus) [reply mathcomp/ssreflect/order.v:4151]: For full context, here are the new `anti` and `lt_def`:
`Fact anti : antisymmetric (PreCancelPartial.le f).
Proof. by move=> ? ? /le_anti; apply: pcan_inj. Qed.

Fact lt_def x y :
  PreCancelPartial.lt f x y = (y != x) && PreCancelPartial.le f x y.
Proof. by rewrite /PreCancelPartial.lt lt_def (inj_eq (pcan_inj f_can)). Qed.
`

**Comment by Tragicus** [comment]
I added a test in `test_order_conv.v` for `preorderType`, which works, so I am very confused by the failure for `porderType`. I tried messing around with unification tests to get a trace that would show the issue but I could not get anything.
@pi8027 Do you have an idea what might have gone wrong?

**Comment by pi8027** [comment]
@Tragicus Can you push the test with `Fail`? I will take a look.

File: mathcomp/ssreflect/order.v [hunk 5]
```diff
@@ -1336,37 +997,16 @@ Reserved Notation "'{' 'tblmorphism' U '->' V '}'"
...
-  lt       : rel T;
-  lt_def   : forall x y, lt x y = (y != x) && (le x y);
-  gt_def   : forall x y, lt y x = (y != x) && (le y x);
-  le_refl  : reflexive     le;
-  ge_refl  : reflexive     (fun x y => le y x);
-  le_anti  : antisymmetric le;
-  ge_anti  : antisymmetric (fun x y => le y x);
-  le_trans : transitive    le;
-  ge_trans : transitive    (fun x y => le y x);
+HB.mixin Record Preorder_isDuallyPOrder (d : disp_t) T of Preorder d T := {
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1002]: This mixin has to be a primitive record (don't remove the first line `#[key="T", primitive]`).

Comment (Tragicus) [reply mathcomp/ssreflect/order.v:1003]: Yes, that fixes this one. Now, it fails at `eq_dual_prod_bPOrderType`, while the tests for `bPreorderType` and `porderType` both succeed. I checked and there should not be any mixin missing the annotation.

File: mathcomp/ssreflect/order.v [hunk 6]
```diff
@@ -7558,21 +5898,24 @@ End ProdOrder.
...
-HB.instance Definition _ (T1 : tbPOrderType disp1) (T2 : tbPOrderType disp2) :=
-  TBPOrder.copy (T1 * T2)%type (prod T1 T2).
+HB.instance Definition _ (T : porderType disp1) (T' : porderType disp2) :=
+  POrder.copy (T * T')%type (T *p T').
+HB.instance Definition _ (T : latticeType disp1) (T' : latticeType disp2) :=
+  Lattice.copy (T * T')%type (T *p T').
+HB.instance Definition _ (T : bLatticeType disp1) (T' : bLatticeType disp2) :=
+  BLattice.copy (T * T')%type (T *p T').
+HB.instance Definition _ (T : tbLatticeType disp1) (T' : tbLatticeType disp2) :=
+  TBLattice.copy (T * T')%type (T *p T').
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:5918]: The source of the second conversion issue is that the `bPOrderType` instance of `prod` is not exported correctly here. This change should be reverted.

File: mathcomp/test_suite/test_order_conv.v [hunk 7]
```diff
@@ -146,7 +149,17 @@ Import DefaultProdOrder.
...
+
+Let eq_dual_prod_tPreorderType (T1 : tPreorderType disp1) (T2 : tPreorderType disp2) :
+  Order.TPreorder.on (T1 * T2)^d = Order.TPreorder.on (T1^d * T2^d)%type := erefl.
+
+Let eq_dual_prod_tbPreorderType
+  (T1 : tbPreorderType disp1) (T2 : tbPreorderType disp2) :
+  Order.TBPreorder.on (T1 * T2)^d = Order.TBPreorder.on (T1^d * T2^d)%type := erefl.
+
+Fail Let eq_dual_prod_bPOrderType (T1 : bPOrderType disp1) (T2 : bPOrderType disp2) :
   Order.BPOrder.on (T1 * T2)^d = Order.BPOrder.on (T1^d * T2^d)%type := erefl.
```
Comment (pi8027) [inline mathcomp/test_suite/test_order_conv.v:163]: To identify the source of the issue, I suggest to open the proof mode:
```coq
Let eq_dual_prod_bPOrderType (T1 : bPOrderType disp1) (T2 : bPOrderType disp2) :
  Order.BPOrder.on (T1 * T2)^d = Order.BPOrder.on (T1^d * T2^d)%type.
```
and try to prove the equation using only unfolding, `congr`, and `reflexivity`.

File: mathcomp/ssreflect/order.v (hunk 6 above)
Comment (Tragicus) [reply mathcomp/ssreflect/order.v]: Thanks again. This is getting ridiculous, I can get a product of `porderType _` but not a product of `meetSemilatticeType _`. However, both instances are declared the same way at the same place, so I am very nonplussed.

File: mathcomp/ssreflect/order.v [hunk 8]
```diff
@@ -7573,6 +5916,13 @@ HB.instance Definition _ (T1 : tPOrderType disp1) (T2 : tPOrderType disp2) :=
   TPOrder.copy (T1 * T2)%type (prod T1 T2).
 HB.instance Definition _ (T1 : tbPOrderType disp1) (T2 : tbPOrderType disp2) :=
   TBPOrder.copy (T1 * T2)%type (prod T1 T2).
+HB.instance Definition _ (T1 : latticeType disp1) (T2 : latticeType disp2) :=
+  Lattice.copy (T1 * T2)%type (prod T1 T2).
+HB.instance Definition _ (T1 : bLatticeType disp1) (T2 : bLatticeType disp2) :=
+  BLattice.copy (T1 * T2)%type (prod T1 T2).
+HB.instance Definition _
+  (T1 : tbLatticeType disp1) (T2 : tbLatticeType disp2) :=
+  TBLattice.copy (T1 * T2)%type (prod T1 T2).
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:5925]: These instances have to be declared after the semilattice instances below, and this has already been done (L5950). So, these instances should be removed.

Comment (Tragicus) [reply mathcomp/ssreflect/order.v:5925]: Excellent, it compiles, many thanks.

**Comment by Tragicus** [comment]
> > Meanwhile, maybe you can work around it by replacing HB.saturate with some manual HB.instance as done by @pi8027 in its previous semilattive PR, but not sure it's worth the effort.
> 
> IIRC, what I actually did was the other way around: I replaced the `HB.instance` declarations for dual instances with `HB.saturate` because a bug of `HB.instance` prevented me from declaring these instances. You can revert this change if the bug has been fixed.

I believe I see the same issue, so let's keep it this way.

**Comment by Tragicus** [comment]
This PR is 25% slower than `master`.
[benchPreorder.ods](https://github.com/user-attachments/files/16784656/benchPreorder.ods)

**Comment by pi8027** [comment]
I rebenched on coq-master:
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
19m15.40s | 1691168 ko | Total Time / Peak Mem            | 15m41.61s | 1782220 ko || +3m33.79s ||    -91052 ko |  +22.70% |         -5.10%
-------------------------------------------------------------------------------------------------------------------------------------------
 5m21.63s | 1691168 ko | ssreflect/order.vo               |  2m17.18s | 1782220 ko || +3m04.45s ||    -91052 ko | +134.45% |         -5.10%
 0m11.81s |  703640 ko | ssreflect/preorder.vo            |    N/A    |    N/A     || +0m11.81s ||    703640 ko |        ∞ |              ∞
 0m30.58s | 1019416 ko | algebra/ssrnum.vo                |  0m28.46s |  947084 ko || +0m02.12s ||     72332 ko |   +7.44% |         +7.63%
 0m29.42s | 1188916 ko | algebra/matrix.vo                |  0m27.69s | 1130764 ko || +0m01.73s ||     58152 ko |   +6.24% |         +5.14%
 0m11.63s |  802436 ko | algebra/archimedean.vo           |  0m10.49s |  767688 ko || +0m01.14s ||     34748 ko |  +10.86% |         +4.52%
 0m38.83s | 1242740 ko | algebra/ssralg.vo                |  0m38.84s | 1257980 ko || -0m00.01s ||    -15240 ko |   -0.02% |         -1.21%
 0m33.83s |  979268 ko | character/mxrepresentation.vo    |  0m33.58s |  969832 ko || +0m00.25s ||      9436 ko |   +0.74% |         +0.97%
 0m33.06s | 1254340 ko | field/algebraics_fundamentals.vo |  0m32.23s | 1220480 ko || +0m00.83s ||     33860 ko |   +2.57% |         +2.77%
 0m30.01s |  922716 ko | solvable/extremal.vo             |  0m29.74s |  910160 ko || +0m00.27s ||     12556 ko |   +0.90% |         +1.37%
 0m24.16s |  986432 ko | character/character.vo           |  0m23.67s |  952524 ko || +0m00.49s ||     33908 ko |   +2.07% |         +3.55%
 0m23.44s |  873072 ko | field/galois.vo                  |  0m23.08s |  876080 ko || +0m00.36s ||     -3008 ko |   +1.55% |         -0.34%
 0m22.85s |  811552 ko | algebra/mxpoly.vo                |  0m22.55s |  792324 ko || +0m00.30s ||     19228 ko |   +1.33% |         +2.42%
 0m20.35s |  990688 ko | character/classfun.vo            |  0m19.82s |  995704 ko || +0m00.53s ||     -5016 ko |   +2.67% |         -0.50%
 0m19.37s |  817548 ko | solvable/extraspecial.vo         |  0m19.04s |  805740 ko || +0m00.33s ||     11808 ko |   +1.73% |         +1.46%
 0m17.14s |  881804 ko | character/inertia.vo             |  0m16.83s |  866316 ko || +0m00.31s ||     15488 ko |   +1.84% |         +1.78%
 0m15.76s |  893364 ko | field/fieldext.vo                |  0m15.52s |  864976 ko || +0m00.24s ||     28388 ko |   +1.54% |         +3.28%
 0m15.62s |  676188 ko | solvable/burnside_app.vo         |  0m15.76s |  674108 ko || -0m00.14s ||      2080 ko |   -0.88% |         +0.30%
 0m15.27s |  929088 ko | field/finfield.vo                |  0m14.75s |  892960 ko || +0m00.52s ||     36128 ko |   +3.52% |         +4.04%
 0m13.96s |  804388 ko | algebra/mxalgebra.vo             |  0m13.59s |  782372 ko || +0m00.37s ||     22016 ko |   +2.72% |         +2.81%
 0m13.84s |  869528 ko | field/closed_field.vo            |  0m13.53s |  860116 ko || +0m00.31s ||      9412 ko |   +2.29% |         +1.09%
 0m13.73s |  726024 ko | algebra/poly.vo                  |  0m13.72s |  725916 ko || +0m00.01s ||       108 ko |   +0.07% |         +0.01%
 0m13.30s |  900612 ko | field/algC.vo                    |  0m12.32s |  868360 ko || +0m00.98s ||     32252 ko |   +7.95% |         +3.71%
 0m13.18s |  876000 ko | character/integral_char.vo       |  0m12.85s |  850408 ko || +0m00.33s ||     25592 ko |   +2.56% |         +3.00%
 0m12.61s |  862592 ko | field/algnum.vo                  |  0m12.45s |  846836 ko || +0m00.16s ||     15756 ko |   +1.28% |         +1.86%
 0m12.10s |  755936 ko | field/separable.vo               |  0m11.82s |  737956 ko || +0m00.28s ||     17980 ko |   +2.36% |         +2.43%
 0m12.06s |  623872 ko | algebra/polydiv.vo               |  0m12.20s |  627640 ko || -0m00.14s ||     -3768 ko |   -1.14% |         -0.60%
 0m12.02s |  642000 ko | solvable/maximal.vo              |  0m12.05s |  640352 ko || -0m00.03s ||      1648 ko |   -0.24% |         +0.25%
 0m11.75s |  810440 ko | algebra/interval.vo              |  0m10.81s |  774556 ko || +0m00.94s ||     35884 ko |   +8.69% |         +4.63%
 0m11.73s |  721700 ko | algebra/finalg.vo                |  0m11.91s |  721908 ko || -0m00.18s ||      -208 ko |   -1.51% |         -0.02%
 0m11.66s |  605228 ko | fingroup/gproduct.vo             |  0m11.54s |  606764 ko || +0m00.12s ||     -1536 ko |   +1.03% |         -0.25%
 0m11.52s |  627548 ko | solvable/hall.vo                 |  0m11.55s |  622016 ko || -0m00.03s ||      5532 ko |   -0.25% |         +0.88%
 0m11.45s |  855364 ko | character/vcharacter.vo          |  0m11.05s |  833864 ko || +0m00.40s ||     21500 ko |   +3.61% |         +2.57%
 0m11.11s |  736468 ko | character/mxabelem.vo            |  0m10.84s |  724460 ko || +0m00.27s ||     12008 ko |   +2.49% |         +1.65%
 0m10.87s |  778440 ko | algebra/vector.vo                |  0m10.76s |  757296 ko || +0m00.11s ||     21144 ko |   +1.02% |         +2.79%
 0m10.11s |  635760 ko | solvable/abelian.vo              |  0m10.14s |  634272 ko || -0m00.03s ||      1488 ko |   -0.29% |         +0.23%
 0m09.50s |  779804 ko | algebra/intdiv.vo                |  0m09.09s |  761880 ko || +0m00.41s ||     17924 ko |   +4.51% |         +2.35%
 0m09.36s |  757304 ko | algebra/rat.vo                   |  0m08.67s |  743860 ko || +0m00.69s ||     13444 ko |   +7.95% |         +1.80%
 0m09.24s |  756868 ko | algebra/ssrint.vo                |  0m08.52s |  727256 ko || +0m00.72s ||     29612 ko |   +8.45% |         +4.07%
 0m08.98s |  739692 ko | field/falgebra.vo                |  0m08.68s |  727820 ko || +0m00.30s ||     11872 ko |   +3.45% |         +1.63%
 0m08.97s |  569044 ko | fingroup/action.vo               |  0m09.00s |  568540 ko || -0m00.03s ||       504 ko |   -0.33% |         +0.08%
 0m08.71s |  824220 ko | field/qfpoly.vo                  |  0m08.41s |  802964 ko || +0m00.30s ||     21256 ko |   +3.56% |         +2.64%
 0m08.20s |  753740 ko | algebra/qpoly.vo                 |  0m08.00s |  731544 ko || +0m00.20s ||     22196 ko |   +2.49% |         +3.03%
 0m07.34s |  564484 ko | ssreflect/seq.vo                 |  0m07.37s |  564464 ko || -0m00.03s ||        20 ko |   -0.40% |         +0.00%
 0m06.73s |  574564 ko | fingroup/fingroup.vo             |  0m06.76s |  572432 ko || -0m00.03s ||      2132 ko |   -0.44% |         +0.37%
 0m06.26s |  598140 ko | solvable/alt.vo                  |  0m06.26s |  592800 ko || +0m00.00s ||      5340 ko |   +0.00% |         +0.90%
 0m06.24s |  585384 ko | solvable/center.vo               |  0m06.29s |  583696 ko || -0m00.05s ||      1688 ko |   -0.79% |         +0.28%
 0m06.10s |  532008 ko | ssreflect/finset.vo              |  0m06.08s |  531972 ko || +0m00.02s ||        36 ko |   +0.32% |         +0.00%
 0m06.01s |  702048 ko | algebra/polyXY.vo                |  0m05.77s |  684444 ko || +0m00.24s ||     17604 ko |   +4.15% |         +2.57%
 0m05.60s |  580196 ko | solvable/jordanholder.vo         |  0m05.64s |  580376 ko || -0m00.04s ||      -180 ko |   -0.70% |         -0.03%
 0m05.59s |  525040 ko | fingroup/morphism.vo             |  0m05.57s |  520836 ko || +0m00.02s ||      4204 ko |   +0.35% |         +0.80%
 0m05.54s |  585992 ko | solvable/pgroup.vo               |  0m05.56s |  584156 ko || -0m00.02s ||      1836 ko |   -0.35% |         +0.31%
 0m05.51s |  570876 ko | ssreflect/bigop.vo               |  0m05.49s |  571180 ko || +0m00.02s ||      -304 ko |   +0.36% |         -0.05%
 0m05.50s |  609072 ko | solvable/finmodule.vo            |  0m05.51s |  609612 ko || -0m00.01s ||      -540 ko |   -0.18% |         -0.08%
 0m05.31s |  589624 ko | solvable/frobenius.vo            |  0m05.36s |  589876 ko || -0m00.05s ||      -252 ko |   -0.93% |         -0.04%
 0m05.22s |  767428 ko | field/cyclotomic.vo              |  0m04.93s |  753728 ko || +0m00.29s ||     13700 ko |   +5.88% |         +1.81%
 0m05.02s |  586352 ko | solvable/cyclic.vo               |  0m05.07s |  586628 ko || -0m00.05s ||      -276 ko |   -0.98% |         -0.04%
 0m04.44s |  554564 ko | ssreflect/fintype.vo             |  0m04.43s |  556468 ko || +0m00.01s ||     -1904 ko |   +0.22% |         -0.34%
 0m04.42s |  619044 ko | algebra/ring_quotient.vo         |  0m04.43s |  618704 ko || -0m00.01s ||       340 ko |   -0.22% |         +0.05%
 0m04.37s |  519188 ko | fingroup/quotient.vo             |  0m04.35s |  519384 ko || +0m00.02s ||      -196 ko |   +0.45% |         -0.03%
 0m04.35s |  580692 ko | solvable/gseries.vo              |  0m04.34s |  578756 ko || +0m00.01s ||      1936 ko |   +0.23% |         +0.33%
 0m04.25s |  583476 ko | solvable/sylow.vo                |  0m04.28s |  581620 ko || -0m00.03s ||      1856 ko |   -0.70% |         +0.31%
 0m04.24s |  610152 ko | algebra/countalg.vo              |  0m04.20s |  609840 ko || +0m00.04s ||       312 ko |   +0.95% |         +0.05%
 0m04.03s |  840924 ko | all/all.vo                       |  0m03.80s |  825484 ko || +0m00.23s ||     15440 ko |   +6.05% |         +1.87%
 0m04.03s |  509332 ko | ssreflect/prime.vo               |  0m03.99s |  512436 ko || +0m00.04s ||     -3104 ko |   +1.00% |         -0.60%
 0m03.71s |  586320 ko | solvable/nilpotent.vo            |  0m03.68s |  580688 ko || +0m00.03s ||      5632 ko |   +0.81% |         +0.96%
 0m03.16s |  491440 ko | ssreflect/path.vo                |  0m03.22s |  493072 ko || -0m00.06s ||     -1632 ko |   -1.86% |         -0.33%
 0m03.00s |  582156 ko | algebra/fraction.vo              |  0m03.02s |  582608 ko || -0m00.02s ||      -452 ko |   -0.66% |         -0.07%
 0m02.78s |  778460 ko | character/all_character.vo       |  0m02.54s |  766104 ko || +0m00.24s ||     12356 ko |   +9.44% |         +1.61%
 0m02.70s |  722156 ko | algebra/all_algebra.vo           |  0m02.48s |  721896 ko || +0m00.22s ||       260 ko |   +8.87% |         +0.03%
 0m02.69s |  613024 ko | algebra/zmodp.vo                 |  0m02.71s |  613416 ko || -0m00.02s ||      -392 ko |   -0.73% |         -0.06%
 0m02.69s |  763560 ko | field/all_field.vo               |  0m02.41s |  745040 ko || +0m00.28s ||     18520 ko |  +11.61% |         +2.48%
 0m02.61s |  504768 ko | fingroup/automorphism.vo         |  0m02.66s |  504448 ko || -0m00.05s ||       320 ko |   -1.87% |         +0.06%
 0m02.59s |  509140 ko | ssreflect/ssrnat.vo              |  0m02.58s |  507624 ko || +0m00.01s ||      1516 ko |   +0.38% |         +0.29%
 0m02.48s |  517396 ko | fingroup/perm.vo                 |  0m02.51s |  517280 ko || -0m00.03s ||       116 ko |   -1.19% |         +0.02%
 0m02.27s |  493468 ko | ssreflect/fingraph.vo            |  0m02.28s |  492532 ko || -0m00.01s ||       936 ko |   -0.43% |         +0.19%
 0m02.26s |  583744 ko | solvable/primitive_action.vo     |  0m02.24s |  581536 ko || +0m00.02s ||      2208 ko |   +0.89% |         +0.37%
 0m02.25s |  512672 ko | solvable/gfunctor.vo             |  0m02.24s |  516240 ko || +0m00.01s ||     -3568 ko |   +0.44% |         -0.69%
 0m02.22s |  651960 ko | solvable/all_solvable.vo         |  0m01.93s |  647936 ko || +0m00.29s ||      4024 ko |  +15.02% |         +0.62%
 0m02.13s |  507304 ko | ssreflect/binomial.vo            |  0m02.17s |  507368 ko || -0m00.04s ||       -64 ko |   -1.84% |         -0.01%
 0m02.05s |  513596 ko | ssreflect/choice.vo              |  0m02.02s |  513744 ko || +0m00.03s ||      -148 ko |   +1.48% |         -0.02%
 0m01.85s |  491600 ko | ssreflect/div.vo                 |  0m01.82s |  488940 ko || +0m00.03s ||      2660 ko |   +1.64% |         +0.54%
 0m01.79s |  590700 ko | ssreflect/all_ssreflect.vo       |  0m01.50s |  562716 ko || +0m00.29s ||     27984 ko |  +19.33% |         +4.97%
 0m01.55s |  513048 ko | solvable/commutator.vo           |  0m01.56s |  512544 ko || -0m00.01s ||       504 ko |   -0.64% |         +0.09%
 0m01.43s |  499032 ko | ssreflect/finfun.vo              |  0m01.41s |  498832 ko || +0m00.02s ||       200 ko |   +1.41% |         +0.04%
 0m01.40s |  493320 ko | ssreflect/eqtype.vo              |  0m01.43s |  495064 ko || -0m00.03s ||     -1744 ko |   -2.09% |         -0.35%
 0m01.37s |  502132 ko | ssreflect/generic_quotient.vo    |  0m01.37s |  502100 ko || +0m00.00s ||        32 ko |   +0.00% |         +0.00%
 0m01.37s |  502424 ko | ssreflect/tuple.vo               |  0m01.40s |  502300 ko || -0m00.03s ||       124 ko |   -2.14% |         +0.02%
 0m00.78s |  501492 ko | fingroup/presentation.vo         |  0m00.77s |  500964 ko || +0m00.01s ||       528 ko |   +1.29% |         +0.10%
 0m00.55s |  442332 ko | ssreflect/ssrAC.vo               |  0m00.56s |  442664 ko || -0m00.01s ||      -332 ko |   -1.78% |         -0.07%
 0m00.44s |  343428 ko | fingroup/all_fingroup.vo         |  0m00.45s |  343420 ko || -0m00.01s ||         8 ko |   -2.22% |         +0.00%
 0m00.13s |  173016 ko | ssreflect/ssrbool.vo             |  0m00.13s |  173612 ko || +0m00.00s ||      -596 ko |   +0.00% |         -0.34%
 0m00.12s |  145220 ko | ssreflect/ssrfun.vo              |  0m00.10s |  146068 ko || +0m00.02s ||      -848 ko |  +19.99% |         -0.58%
 0m00.08s |  123604 ko | ssreflect/ssreflect.vo           |  0m00.09s |  122780 ko || -0m00.01s ||       824 ko |  -11.11% |         +0.67%
 0m00.07s |  109036 ko | ssreflect/ssrnotations.vo        |  0m00.06s |  108244 ko || +0m00.01s ||       792 ko |  +16.66% |         +0.73%
 0m00.06s |  105504 ko | ssreflect/ssrmatching.vo         |  0m00.06s |  105688 ko || +0m00.00s ||      -184 ko |   +0.00% |         -0.17%
```

**Comment by Tragicus** [comment]
I do not think generalizing intervals to preorders will pose any issue. However, it might take some time for this PR to be merged since it is currently very slow and I do not know if I can speed it up.

**Comment by zstone1** [comment]
That's alright, it's not urgent for me. I just wanted to confirm that my approach will be compatible. I empathize with the performance piece, though. I am also having a severe performance issue with a similar PR https://github.com/math-comp/analysis/pull/1312 where I split up `Pointed` and `Topology`. Thankfully it was only broken on coq 8.18 and works on 8.19 and 8.20. So I did not pursue the source of the slowdown to its source. I would be curious if you make progress here, perhaps our problems share a cause

**Comment by CohenCyril** [comment]
TODO: bench de mathcomp analysis

**Comment by Tragicus** [comment]
J'ai +15% de temps de compilation sur `analysis`, dont +44% sur `lebesgue_integral.v`, donc il y a probablement quelque chose qui se passe.

**Comment by CohenCyril** [comment]
> I have +15% compilation time on `analysis`, with +44% on `lebesgue_integral.v`, so there probably is something happening here.

Using Rocq master or 8.20?

**Comment by CohenCyril** [comment]
Using Rocq master or 8.20 ?

**Comment by Tragicus** [comment]
I am a few commits behind Rocq master, I have the optimization if that is the question.

**Comment by proux01** [comment]
Squashed and rebased

**Comment by proux01** [comment]
So CI green and bench tell +6% for mathcomp itself and +4% for analysis. I guess this is acceptable and I now just need to review and merge.

File: .nix/config.nix [hunk 9]
```diff
@@ -74,6 +74,8 @@ with builtins; with (import <nixpkgs> {}).lib;
          #   for a complete list of Coq packages available in Nix
          # * <github_login>:<branch> is such that this will use the branch <branch>
          #   from https://github.com/<github_login>/<repository>
+         mathcomp-classical.override.version = "proux01:mc1169";
+         mathcomp-analysis.override.version = "proux01:mc1169";
```
Comment (Tragicus) [inline .nix/config.nix:78]: This looks like it was left unintentionally.

**Review by Tragicus — COMMENTED** [review]
I will do the changelog.

File: .nix/config.nix (hunk 9 above)
Comment (proux01) [reply .nix/config.nix:78]: Rather I just merged the overlay and didn't remove it yet. But indeed, it should disappear.

File: ssreflect/preorder.v [hunk 10]
```diff
@@ -0,0 +1,3776 @@
...
+Lemma lt_sorted_pairwise s : sorted <%O s = pairwise <%O s.
+Proof. exact/sorted_pairwise/lt_trans. Qed.
+
+Lemma le_path_pairwise x s : path <=%O x s = pairwise <=%O (x :: s).
+Proof. exact/path_pairwise/le_trans. Qed.
+
+Lemma lt_path_pairwise x s : path <%O x s = pairwise <%O (x :: s).
+Proof. exact/path_pairwise/lt_trans. Qed.
+
+Lemma lt_sorted_is_uniq_le s : sorted <%O s -> uniq s && sorted <=%O s.
```
Comment (proux01) [inline ssreflect/preorder.v:1147]: Isn't that an equivalence?
```suggestion
Lemma lt_sorted_is_uniq_le s : sorted <%O s = (uniq s && sorted <=%O s).
```

**Review by proux01 — APPROVED** [review]
Will add changelog and merge if there are no other comments.

File: ssreflect/preorder.v (hunk 10 above)
Comment (Tragicus) [reply ssreflect/preorder.v:1147]: Absolutely.

Comment (Tragicus) [reply ssreflect/preorder.v:1147]: This is not a new lemma, however, so changing it would need a deprecation.

Comment (proux01) [reply ssreflect/preorder.v:1147]: In fact you were right, the <- direction doesn't hold for preorders so let's keep it as it is (it is indeed a new lemma)
